US04863920
8.70 g of an equimolar mixture of methyltriphenylphosphonium bromide and sodium amide were stirred for 20 minutes in 60 ml of tetrahydrofuran. 6 g (20 mmol) of (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxaldehyde was then added portionwise thereto and the mixture was stirred for a further 1 hour. The mixture was subsequently filtered and the filtrate was evaporated. After chromatography of the residue on silica gel while eluting with cyclohexane/ether/isopropanol (3:3:1) and subsequent recrystallization from ethyl acetate there was obtained (S)-8-chloro-12,12a-dihydro-1-vinyl-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one of melting point 171°-172°.

reactant | sodium amide | [NH2-].[Na+]
reactant | (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxaldehyde | 20 mmol, 6 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=O)CC1)=O | C14H10ClN3O2
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | (S)-8-chloro-12,12a-dihydro-1-vinyl-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=C)CC1)=O | C15H12ClN3O
